US09062034B2
(d) 5-chloro-thiophene-2-carboxylic acid-N-[3-methoxy-1-methyl-1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-propyl]-amide
0.60 ml of a 2M solution of trimethylaluminium in toluene are added to a mixture of 130 mg (0.738 mmol) 3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamine in dichloromethane and stirred for 15 min. Then the mixture is added to 233 mg (0.729 mmol) 5-chloro-thiophene-2-carboxylic acid-N-(1-ethoxycarbonyl-3-methoxy-1-methyl-propyl)-amide and stirred for 3 days. Then it is poured onto ice water/2 N NaOH, extracted several times with ethyl acetate and dried with sodium sulphate. The crude product is purified by chromatography.

reactant | trimethylaluminium | C[Al](C)C
reactant | 3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamine | 0.738 mmol, 130 mg | CN1CCC2=C(CC1)C=C(C=C2)N | C11H16N2
reactant | 5-chloro-thiophene-2-carboxylic acid-N-(1-ethoxycarbonyl-3-methoxy-1-methyl-propyl)-amide | 0.729 mmol, 233 mg | C(C)OC(=O)C(CCOC)(C)NC(=O)C=1SC(=CC1)Cl | C13H18ClNO4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-chloro-thiophene-2-carboxylic acid-N-[3-methoxy-1-methyl-1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-propyl]-amide | COCCC(C(NC1=CC2=C(CCN(CC2)C)C=C1)=O)(C)NC(=O)C=1SC(=CC1)Cl | C22H28ClN3O3S
